US05306827
Preparation of 5-(p-Chlorophenyl)pyrrol-5-yl trichloromethyl ketone
A solution of trichloroacetyl chloride (11.26 g, 0.0619 mol) in ether is treated with a solution of 2-(p-chlorophenyl)pyrrole (10.0 g, 0.0503 mol) in ether, stirred for four hours at room temperature, treated with saturated potassium carbonate solution and diluted with ethyl acetate. The organic phase is separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow solid. The solid is recrystallized from 2-propanol to give the title product as a yellow solid (12.63 g, mp 166°-168° C.) which is identified by 1HNMR spectral analysis.

reactant | trichloroacetyl chloride | 0.0619 mol, 11.26 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | 2-(p-chlorophenyl)pyrrole | 0.0503 mol, 10.0 g | ClC1=CC=C(C=C1)C=1NC=CC1 | C10H8ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(p-Chlorophenyl)pyrrol-5-yl trichloromethyl ketone | 12.63 g | ClC(Cl)(Cl)C(=O)C1(C=CC=N1)C1=CC=C(C=C1)Cl | C12H7Cl4NO
